US06569877B2
4-(2,4-dioxo-3-tritylthiazolidin-5-ylmethyl)phenoxyacetic acid t-butyl ester
To a solution of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione (20.0 g) in acetonitrile (200 ml) was added cesium carbonate (21.0 g), followed by the addition of bromoacetic acid t-butyl ester (7.4 ml). The resulting mixture was stirred at 25° C. for 3 hours. To the reaction mixture was added water and the organic layer was separated and concentrated in vacuo. The residue was extracted with toluene and the extract was washed with diluted hydrochloric acid and water and concentrated in vacuo to afford the desired compound (24.9 g).

reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 20.0 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | cesium carbonate | 21.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetic acid t-butyl ester | 7.4 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-(2,4-dioxo-3-tritylthiazolidin-5-ylmethyl)phenoxyacetic acid t-butyl ester | 24.9 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C35H33NO5S
